US08729068B2
A mixture of 300 mg of methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 298 mg of ethyl 4-(cyclopropylamino)cyclohexane carboxylate, and 3.0 mL of dichloromethane was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and then the residue was purified by silica gel column chromatography (chloroform only) to obtain 314 mg of methyl 4-(2-{4-[({2-[(3-{cyclopropyl[4-(ethoxycarbonyl)cyclohexyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate as a yellow powder solid.

reactant | methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 300 mg | ClS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C32H29ClN2O6S2
reactant | ethyl 4-(cyclopropylamino)cyclohexane carboxylate | 298 mg | C1(CC1)NC1CCC(CC1)C(=O)OCC | C12H21NO2
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | methyl 4-(2-{4-[({2-[(3-{cyclopropyl[4-(ethoxycarbonyl)cyclohexyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 314 mg | C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)C1CCC(CC1)C(=O)OCC | C44H49N3O8S2
